US03966770
A mixture of 40 g. of 3'-chloromethyl-4'-hydroxyacetophenone and 26 g. of magnesium methyl sulfinate in 500 ml. of ethanol is refluxed with stirring for 3 hours. The reaction mixture is then concentrated in vacuo. The resultant oil is redissolved in chloroform and washed with water. The chloroform is dried and evaporated to give 4'-hydroxy-3'-methylsulfonylmethylacetophenone, m.p. 206.5°-208.5° C.

reactant | 3'-chloromethyl-4'-hydroxyacetophenone | ClCC=1C=C(C=CC1O)C(C)=O | C9H9ClO2
reactant | magnesium methyl sulfinate | CS(=O)[O-].[Mg+2].CS(=O)[O-]
solvent | ethanol | C(C)O | C2H6O
product | 4'-hydroxy-3'-methylsulfonylmethylacetophenone | OC1=C(C=C(C=C1)C(C)=O)CS(=O)(=O)C | C10H12O4S
